US07169925B2
Step F8: 1-Ethoxycarbonylmethyl-3-(pyridin-4-ylamino)-1H-indole-2-carboxylic acid ethyl ester
Under nitrogen, stir and cool to 0° C. a mixture of ethyl 3-(4-pyridinylamino)indole-2-carboxylate (see U.S. Pat. No. 5,328,920; 0.20 g, 0.711 mmol) in dimethylformamide (5 mL). Add a 1M solution of potassium tert-butoxide in tetrahydrofuran (0.75 mL, 0.75 mmol) in one portion, stir for 10 min, and then add ethyl bromoacetate (0.12 g, 0.72 mmol) in one portion. Stir at 0° C. for 50 min and quench the reaction into water (30 mL). Extract the aqueous mixture with ethyl acetate (2×20 mL), combine the extracts, wash with water (25 mL), brine (25 mL) and dry over MgSO4. Concentrate under vacuum, chromatograph the residue on a Redisep silica gel cartridge (10 g) eluting with 5% methanol/dichloromethane to 20% methanol/dichloromethane. Combine non-homogeneous fractions concentrate and chromatograph again as above. Combine all homogenous fractions and concentrate to obtain 0.13 g (50%) of the title compound as a white solid: MS 368(M+H).

reactant | ethyl 3-(4-pyridinylamino)indole-2-carboxylate | N1=CC=C(C=C1)NC1=C(NC2=CC=CC=C12)C(=O)OCC | C16H15N3O2
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | tetrahydrofuran | 0.75 mmol, 0.75 mL | O1CCCC1 | C4H8O
reactant | ethyl bromoacetate | 0.72 mmol, 0.12 g | BrCC(=O)OCC | C4H7BrO2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-Ethoxycarbonylmethyl-3-(pyridin-4-ylamino)-1H-indole-2-carboxylic acid ethyl ester | 0.13 g, 50% | C(C)OC(=O)C=1N(C2=CC=CC=C2C1NC1=CC=NC=C1)CC(=O)OCC | C20H21N3O4
